2111-04-13 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 THORACENTESIS - At [**2111-4-12**] 12:02 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-4-12**] 07:32 PM
   Levofloxacin - [**2111-4-12**] 08:30 PM
   Acyclovir - [**2111-4-12**] 10:17 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Heparin Sodium - [**2111-4-12**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-13**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 111 (105 - 140) bpm
   BP: 111/59(68) {97/42(56) - 132/68(79)} mmHg
   RR: 33 (28 - 39) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,908 mL
                                                                    688 mL
   PO:
             TF:
   IVF:
                                                                  1,908 mL
                                                                    688 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    100 mL
   Urine:
                                                                    850 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,058 mL
                                                                    588 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   12.4 g/dL
   154 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   23 mg/dL
   116 mEq/L
   146 mEq/L
   37.6 %
   34.3 K/uL
        [image002.jpg]
                             [**2111-4-12**]  05:59 PM
                             [**2111-4-13**]  03:41 AM
   WBC
   34.3
   Hct
   37.6
   Plt
   206
   Cr
   1.0
   0.8
   Glucose
   219
   154
   Other labs: PT / PTT / INR:19.0/150.0/1.8, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Ca++:11.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 HYPOXEMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 PLEURAL EFFUSION, ACUTE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-4-12**] 12:07 PM
   18 Gauge - [**2111-4-12**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-04-13 10:40:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 yo man with metastatic papillary thyroid cancer presented with resp
   distress, sig improved following 2L left thoracentesis.
   24 Hour Events:
 THORACENTESIS - At [**2111-4-12**] 12:02 PM
   CT done yesterday.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2111-4-12**] 08:30 PM
   Vancomycin - [**2111-4-13**] 08:30 AM
   Acyclovir - [**2111-4-13**] 09:08 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Heparin Sodium - [**2111-4-12**] 09:30 PM
   Other medications:
   per resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: comfortable breathing
   Gastrointestinal: Constipation
   Psychiatric / Sleep: anxious
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2111-4-13**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.9
C (96.7
   HR: 115 (105 - 140) bpm
   BP: 102/61(64) {86/42(56) - 132/68(79)} mmHg
   RR: 33 (26 - 39) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,908 mL
                                                                  1,390 mL
   PO:
             TF:
   IVF:
                                                                  1,908 mL
                                                                  1,390 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    350 mL
   Urine:
                                                                    850 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,058 mL
                                                                  1,040 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), [**4-12**] at
   apex
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   left base), (Breath Sounds: Crackles : bilat bases, No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Rash: , Neck and right ant chest lesions and rash as
   described yesterday. Unchanged. Zoster lesions crusting and vesicular.
   Neurologic: Attentive, Follows commands, Responds to: Not assessed,
   Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   206 K/uL
   154 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   23 mg/dL
   116 mEq/L
   146 mEq/L
   37.6 %
   34.3 K/uL
        [image002.jpg]
                             [**2111-4-12**]  05:59 PM
                             [**2111-4-13**]  03:41 AM
   WBC
   34.3
   Hct
   37.6
   Plt
   206
   Cr
   1.0
   0.8
   Glucose
   219
   154
   Other labs: PT / PTT / INR:19.0/150.0/1.8, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Ca++:11.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: Chest CT with diffuse, bilateral gg infiltrates, nodular
   infiltrates, and areas of denser consolidation. Bilat pleural effusion
   L>R. Small subacute PE right post subseg. Small pericardial effusion.
   Assessment and Plan
   75 yo man with widely metastatic papillary thyroid cancer. S/p XRT.
 HYPOXEMIA, respiratory distress. Much improved following [**Female First Name (un) 217**].
   CT demonstrating bilateral nodular and gg opacities. Likely mets to
   lung and mediastinal nodes. Will continue to cover empirically for
   multifocal pneumonia.
 PLEURAL EFFUSION, ACUTE. Exudative. Likely malignant effusion. DDx:
   complicated parapneumonic, unlikely related to small subacute PE.
   Management will be guided by chronicity of reaccumulation, symptoms.
 PE, small, subacute. Will not treat given lack of sxs and bloody
   pleural effusion.
 Widely metastatic disease. New pericardial effusion. Pain not
   currently an issue. Onc to consult. Will request palliative care
   consult as well.
 Aspiration. NPO. Pending esophageal eval with swallow study. Will
   likely need PEG for nutrition.
 HYPERNATREMIA resolved.
 HYPERCALCEMIA. Ionized calcium, PTH, PTHrp pending.
 Zoster. On IV Acyclovir. No pain.
   CODE DISCUSSION WITH PT AND WIFE TODAY.
   ICU Care
   Nutrition:
   Comments: Pending esophageal studies to determine nutrition plan.
   Glycemic Control:
   Lines:
   20 Gauge - [**2111-4-12**] 12:07 PM
   18 Gauge - [**2111-4-12**] 02:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin, encourage out of bed
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2111-04-13 16:38:00 Physician Resident Progress Note
Chief Complaint: 75M with metastatic papillary thyroid cancer s/p XRT
   presenting with dysphagia and wt loss, transferred to ICU for hypoxia
   to 80s on 6L 02.
   24 Hour Events:
 THORACENTESIS - At [**2111-4-12**] 12:02 PM, s/p 2L 02 removal with
   significant clinical improvement
   CTA: initial read with subsegmental PE, started on heparin gtt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2111-4-12**] 08:30 PM
   Vancomycin - [**2111-4-13**] 08:30 AM
   Acyclovir - [**2111-4-13**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-13**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2111-4-12**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: Anxious
   Flowsheet Data as of  [**2111-4-13**] 04:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 116 (105 - 128) bpm
   BP: 116/59(69) {86/48(57) - 132/66(75)} mmHg
   RR: 38 (26 - 38) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,908 mL
                                                                  2,157 mL
   PO:
             TF:
   IVF:
                                                                  1,908 mL
                                                                  2,157 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    500 mL
   Urine:
                                                                    850 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,058 mL
                                                                  1,657 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen: anxious, tachypneic, cachectic
   HEENT: Mmdry, sclera anicteric
   Neck: fungating lesion anterior neck c/w radiation injury
   Chest: dermatomal vesicular eruptions on right chest wall
   Cor: RRR, 2/6 systolic murmur, hyperdynamic, LV heave
   Pulm: b/l crackles at bases
   Abd: +BS, soft NT/ND
   Ext: no edema
   Labs / Radiology
   206 K/uL
   12.4 g/dL
   154 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   23 mg/dL
   116 mEq/L
   146 mEq/L
   37.6 %
   34.3 K/uL
        [image002.jpg]
                             [**2111-4-12**]  05:59 PM
                             [**2111-4-13**]  03:41 AM
   WBC
   34.3
   Hct
   37.6
   Plt
   206
   Cr
   1.0
   0.8
   Glucose
   219
   154
   Other labs: PT / PTT / INR:19.0/150.0/1.8, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Ca++:11.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: PLEURAL ANALYSIS [**2111-4-12**] 12:03PM
   WBC RBC    Polys Lymphs Monos Eos Meso
   2600* [**Numeric Identifier 440**]* 92* 2* 2* 2* 2*
   PLEURAL CHEMISTRY
   TotProt Glucose LD(LDH) Amylase Albumin
   [**2111-4-12**] 12:03PM    3.5 161 561 12 1.9
   1 VERIFIED BY REPLICATE ANALYSIS
   Imaging: CTA  [**4-12**]
   1. No evidence of acute or large pulmonary embolism. Subsegmental small
   linear filling defect in right posteromedial basilar artery likely
   represents
   subacute pulmonary embolism (unexpect to cause symptomology on its
   own).
   2. Bilateral patchy opacities consistent with multifocal pneumonia
   although
   underlying thyroid metastatic disease cannot be excluded.
   3. New small bilateral pleural effusions and small pericardial
   effusion.
   4. Large thyroid mass, large right paratracheal node, and large right
   adrenal
   mass, unchanged. New soft tissue nodules in bilateral axilla and right
   anterior chest wall concerning for new metastatic lesions since PET CT
   of
   [**2110-10-2**]. Mild mass effect on trachea, unchanged.
   5. Cholelithiasis without evidence of cholecystitis.
   Microbiology: [**4-10**] legionella urinary ag, negative
   [**4-12**] pleural fluid culture pending, gram stain with 2+ PMNs, no
   microorganisms.
   Assessment and Plan
   A/P: Mr. [**Known lastname 62**] is a 75 yo M w/PMHx sx for metastatic papillary
   thyroid cancer with local invasion and tracheal deviation who presents
   with worsenign o2 requirment and chest x ray showed worsening left
   pleural effusion
   #. Respiratory distress: patient admitted 4 days ago, with
   leukocytosis, no fevers and x ray that showed multifocal pneumonia. X
   ray this [**4-12**] showed worsening pleural effusion that could definitely
   explain his shortness of breath. He has not spike fevers but his WBC
   continues to trend up despite a/b whic is concerning for underlying
   infection either viral, bacterial. Other posibilites will include PE
   given tachycardia and underlying malignancy. On the other hand, he was
   definitely positive in fluid balance given hydration for hypercalcemia.
   - s/p thoracentesis
   -CTA showed findings most c/w metastatic disease, nodular pleura,
   especially on mediastinal aspect.
   -Pleural fluid meets multiple lights
 criteria for exudate, likely
   malignant, other on ddx PE, infectious.  F/u cytology and fluid culture
    -Monitor clinically for worsening effusion, manage symptomatically
   with ? catheter drain vs pleurodesis.
   -Cover for PNA for now given multifocal consolidations on CXR and CTA,
   cover for HAP:  vanc, zosyn, levofloxacin for 8-14 days
   -serial CXR
   # Leukocytosis: Pt has been afebrile. No bowel movements, c/o
   constipation so c. diff unlikely.  WBC continues to climb, now >30,
   with left shift.  Ddx includes infection, malignancy, c. diff.
   - pan cx if spikes
   - stool cx r/o c diff although abdomen benign, not stooling.
   # Hypernatremia: patient presented with normal sodium on admission.
   Looks normovolemic on exam. He received about 5 L last 24 hours. ddx
   includes DI which might be due to his hypercalcemia, or given high
   cloride and low bicarb it could also be due to NS hydration.  Urine osm
   high, non c/w DI.  Likely due to NS.  Free H20 deficit 2.7L yesterday,
   has corrected partially in 24 ours, Na now 146 down from 150.
   -re-calculate free h20 deficit, give D5W.  Caution with hydration,
   avoid effusion reaccumulation.
   -Continue to monitor.
   # hypercalcemia: patient with prior normal calcium, likely
   hypercalcemia of malignancy. Received zolindronic acid.
   - will check ca, ionized cal, PTH, PTHrP
   -f/u endocrine recs re ? IVF vs further bisphosphonate vs lasix.
   -treat constipation aggressively
   -pt denies pain currently, monitor closely for symptoms
   # dysphagia: likely related to his malignancy. Has been NPO.  Failed
   S&S today.
   -continue NPO
   -Family meeting to discuss goals of care
   -if indicated based on meeting eval for PEG, call GI
   #PE on CTA. Per final read small segmental filling unlikely to be new
   or contributing to symptoms.  Pt is at risk for thrombosis given
   malignancy, but also had grossly bloody pleural tap.
   -d/c heparin gtt for hemodynamically insignificant PE.
   # hypothyroidism: continue levothyroxine, check TFTs per endo
   # Zoster: was on 1 week valgancyclovir, however given recent
   dysphagia/vomiting, unlikely receiving dose.  Will continue IV
   acyclovir here for full 2 week course.
   -contact precautions
   #. Metastatic papillary thyroid cancer s/p radiation: completed
   radiation. no other radiation plan for now.
   -Family meeting today
   -symptom control
   -ativan IV prn anxiety
   #constipation:
   -PR dulcolax, lactulose enema
   #. FEN. NPO, IVF with D5W for now.
   #. PPx. SQ heparin
   #. Code. FULL, code discussion with family prior to call out
   #. Access. PIV
   #. Communication. Wife [**Name (NI) 63**] [**Name (NI) 62**] HCP [**Telephone/Fax (1) 64**]
   #. Dispo. Callout to floor pending code discussion, decreased 02
   requirement
   ICU Care
   Nutrition: NPO
   Glycemic Control:  not diabetic, sugars well controlled
   Lines:
   20 Gauge - [**2111-4-12**] 12:07 PM
   18 Gauge - [**2111-4-12**] 02:30 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: Not indicated
   VAP:  not indicated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-04-14 07:22:00 Physician Resident Progress Note
Chief Complaint: 75M with metastatic papillary thyroid ca, admitted
   with wt loss, dysphagia. Tx to unit for hypoxia.  2L exudative effusion
   removed from L.  Hypercalcemia.
   24 Hour Events:
   Free water deficit 1.6L, given D5W with KCL
   Failed video swallow
   Increased 02 requirement after video swallow, not called out
   Code status discussion, changed to DNR/DNI
   Pt wishes PEG placement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-4-13**] 06:41 PM
   Levofloxacin - [**2111-4-13**] 07:42 PM
   Acyclovir - [**2111-4-14**] 02:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-4-13**] 06:30 PM
   Enoxaparin (Lovenox) - [**2111-4-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: SOB, anxiety, constipation, denies pain.
   Flowsheet Data as of  [**2111-4-14**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 132 (109 - 132) bpm
   BP: 121/51(66) {86/38(52) - 123/66(73)} mmHg
   RR: 37 (30 - 40) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,015 mL
                                                                  1,072 mL
   PO:
             TF:
   IVF:
                                                                  3,015 mL
                                                                  1,072 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    675 mL
   Urine:
                                                                  1,000 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,015 mL
                                                                    397 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   Gen: anxious, tachypneic, diaphoretic
   HEENT: face mask
   Neck: neck lesion/radiation injury
   Chest:  unchanged dermatomal vesicular patch on right chest wall.  Does
   not appear superinfected
   Cor:  tachycardic, regular, 2/6 systolic murmur at LLSB, LV heave
   Pulm: decreased BS left base, crackles b/l
 up lung fields, tachypneic
   Abd: + hypoactive BS, non-tender, non-distended
   Ext: No edema LE, RUE swelling
   Neuro:  A+O x 3, responding appropriately.  Moving all extremitites
   purposefully. Grip strength 5/5 bilaterally
   Labs / Radiology
   207 K/uL
   13.4 g/dL
   157 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   24 mg/dL
   112 mEq/L
   146 mEq/L
   41.7 %
   39.5 K/uL
        [image002.jpg]
                             [**2111-4-12**]  05:59 PM
                             [**2111-4-13**]  03:41 AM
                             [**2111-4-13**]  03:06 PM
                             [**2111-4-14**]  05:40 AM
   WBC
   34.3
   39.5
   Hct
   37.6
   41.7
   Plt
   206
   207
   Cr
   1.0
   0.8
   0.9
   Glucose
   [**Telephone/Fax (3) 443**]
   Other labs: PT / PTT / INR:19.0/150.0/1.8, Differential-Neuts:92.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:1.0 %, Ca++:11.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Imaging: FINDINGS: The examination was limited secondary to difficulty
   in initiating a
   swallow, which resulted in patient spitting up most boluses. One dry
   swallow
   and one small bolus of thin liquid barium swallow were observed. Bolus
   transport during the oral phase was prolonged and a coating of residue
   remained on the tongue after the swallow. During the pharyngeal phase,
   palatal elevation was normal. Laryngeal elevation, laryngeal valve
   closure,
   and epiglottic deflection were moderately-to-severely impaired.
   Pharyngeal
   contraction was also moderately reduced with residue remaining in the
   valleculae after the teaspoon of thin liquid. While no aspiration was
   observed after the small bolus of thin liquid, residue remained in the
   valleculae until the patient coughed it out through his mouth.
   IMPRESSION: Difficulty initiating swallow. Limited study shows reduced
   laryngeal valve closure and reduced pharyngeal contraction as well as
   residue
   remaining within the valleculae.
   Microbiology: [**4-12**] pleural fluid culture pending, cytology pending
   Assessment and Plan
 HYPOXEMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 PLEURAL EFFUSION, ACUTE
   Assessment and Plan
   A/P: Mr. [**Known lastname 62**] is a 75 yo M w/PMHx sx for metastatic papillary
   thyroid cancer with local invasion and tracheal deviation who presents
   with worsening o2 requirment and chest x ray showed worsening left
   pleural effusion
   #. Respiratory distress: patient admitted 4 days ago, with
   leukocytosis, no fevers and x ray that showed multifocal pneumonia. X
   ray [**4-12**] showed worsening pleural effusion.  He is s/p 2L thoracentesis
   on [**4-13**], exudative fluid. CTA findings suggestive of metastatic
   involvement of pleura with multiple diffuse opacities in parenchyma.
   Pt
s respiratory status worsened after his video swallow yesterday,
   although no aspiration was witnessed. Ddx includes, reaccumulating
   effusion (especially in setting of aggressive hydration for
   hypercalcemia), pulmonary edema from fluid overload, PE (pt known to
   have small subsegmental PE, though was likely old, heparin gtt stopped
   per below), anxiety, infection.  Pt has marked leukocytosis, though no
   fevers or sputum production.  Imaging findings most likely related to
   malignancy although PNA cannot be excluded.  Repeat CXR shows
   reaccumulation of effusion
   -continue supplemental 02 with nebs
   -serial CXR
   -appreciate IP involvement, tentative plan for pleurex catheter
   placement today vs tomorrow, may need pleurodesis in future.  Holding
   lovenox prior to procedure.
   -continue antibiotics for ? PNA, f/u sputum culture
   -check pulsus parodoxus, had small pericardial effusion on CTA, may be
   becoming physiologically significant.
   # Leukocytosis: Pt has been afebrile. No bowel movements, c/o
   constipation so c. diff unlikely.  WBC continues to climb, now >30,
   with left shift.  Ddx includes infection (incl c. diff), malignancy.
   - pan cx if spikes
   - stool cx r/o c diff although abdomen benign, not stooling.
   -f/u pleural fluid cytology, cultures
   # Hypernatremia: Had been as high as 152, urine osms not c/w DI, likely
   due to NS given on presentation.
   Has normalized with free water repletion.
   -1/2 NS for IVF
   -Continue to monitor.
   # hypercalcemia: Likely due to malignancy, although PTH while on low
   end of normal would be expected to be very low if PTHrP elevated which
   is expected mechanism of malignant hypercalcemia in pt with solid
   tumor.  ? is this related to ectopic vitamin D conversion? Calcium has
   trended down 1 point with pamidronate, IVF and lasix.
   -appreciate endo recs, no role for calcitonin, continue current
   management
   -f/u PTHrP
   -Monitor closely for symptoms
   -Aggressively treat constipation
   # dysphagia: Mass effect due to tumor.  Not aspirating but failed video
   swallow.  Initially wanted tube feeds, eval for PEG.  After attending
   discussion, decided against.
   -PPN for now pending decision re: goals of care.
   -continue NPO
   #PE on CTA. Per final read small segmental filling unlikely to be new
   or contributing to symptoms.  Pt is at risk for thrombosis given
   malignancy, but also had grossly bloody pleural tap.
   -d/c
d heparin gtt for hemodynamically insignificant PE.
   # hypothyroidism: continue levothyroxine, checked TFTs per endo,
   improved since initiation of replacement.
   -appreciate endo mgmt, f/u recs.
   # Zoster: was on 1 week valgancyclovir, however given recent
   dysphagia/vomiting, unlikely receiving dose.  Will continue IV
   acyclovir here for full 2 week course.
   -contact precautions
   #. Metastatic papillary thyroid cancer s/p radiation: completed
   radiation. no other radiation plan for now.
   -Family meeting today, see att note.
   -Palliative care consult today, appreciate involvement.
   -symptom control
   -ativan IV prn anxiety
   -morphine prn dyspnea
   #constipation:
   -PR dulcolax, lactulose enema
   #. FEN. NPO, IVF with
 NS, PPN
   #. PPx. Was on lovenox, holding for IP procedure, pneumoboots.
   #. Code. Now DNR/DNI
   #. Access. PIV
   #. Communication. Wife [**Name (NI) 63**] [**Name (NI) 62**] HCP [**Telephone/Fax (1) 64**]
   #. Dispo. Callout to floor pending code discussion, decreased 02
   requirement
   ICU Care
   Nutrition:NPO, PPN
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2111-4-13**] 04:54 PM
   22 Gauge - [**2111-4-13**] 04:54 PM
   Prophylaxis:
   DVT: Pneumoboots, lovenox on hold
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition:

2111-04-14 11:20:00 Physician Attending Progress Note
Chief Complaint: Resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Resp distress after swallow eval yesterday.
   Respiratory distress and higher supplemental oxygen since the study.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2111-4-13**] 07:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-14**] 04:00 AM
   Vancomycin - [**2111-4-14**] 07:43 AM
   Acyclovir - [**2111-4-14**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2111-4-13**] 06:30 PM
   Enoxaparin (Lovenox) - [**2111-4-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Psychiatric / Sleep: Very anxious
   Flowsheet Data as of  [**2111-4-14**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 126 (111 - 132) bpm
   BP: 102/59(67) {88/38(52) - 123/66(73)} mmHg
   RR: 39 (30 - 41) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,015 mL
                                                                  1,816 mL
   PO:
             TF:
   IVF:
                                                                  3,015 mL
                                                                  1,816 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                  1,100 mL
   Urine:
                                                                  1,000 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,015 mL
                                                                    716 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Medium conc mask
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, NC, face mask
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilat 1/2 up bilat),
   dull at bases, no sig change since yesterday
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: unchanged since yesterday- zoster right ant chest
   and skin mets, radiation changes ant neck.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   13.4 g/dL
   207 K/uL
   136 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.8 mEq/L
   22 mg/dL
   110 mEq/L
   145 mEq/L
   41.7 %
   39.5 K/uL
        [image002.jpg]
                             [**2111-4-12**]  05:59 PM
                             [**2111-4-13**]  03:41 AM
                             [**2111-4-13**]  03:06 PM
                             [**2111-4-14**]  05:40 AM
   WBC
   34.3
   39.5
   Hct
   37.6
   41.7
   Plt
   206
   207
   Cr
   1.0
   0.8
   0.9
   0.9
   Glucose
   [**Telephone/Fax (3) 444**]36
   Other labs: PT / PTT / INR:19.0/150.0/1.8, Differential-Neuts:95.0 %,
   Band:1.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:1.0 %, Ca++:10.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   75 yo man with widely metastatic papillary thyroid cancer. S/p XRT.
   Large likely malignant pleural effusion led to resp distress, relieved
   with thoracentesis. CT demonstrating bilateral nodular and gg
   opacities. Likely mets to lung and mediastinal nodes. Empiric abx for
   multifocal pneumonia.
 HYPOXEMIA, respiratory distress. Much improved following [**Female First Name (un) 217**]. Now
   worse since yesterday evening following swallow study. No aspiration
   during study.  Most likely reaccumulation of pleural effusion.
   - DDx: Fluid overload/CHF, compression from mass, PNA, pericardial
   effusion progression, recurrent PE
   - stat CXR, check for pulsus paradoxus
   - Diuresis, plan to keep even, Ativan and low dose morphine
 PLEURAL EFFUSION, ACUTE. Exudative. Likely malignant effusion. DDx:
   complicated parapneumonic, unlikely related to small subacute PE.
   Management will be guided by chronicity of reaccumulation, symptoms.
   Will address after repeat CXR. If [**Last Name (LF) 445**], [**First Name3 (LF) **] likely retap with
   talc pleurodesis.
 PE, small, subacute. Will not treat given lack of sxs and bloody
   pleural effusion.
 Widely metastatic disease. New pericardial effusion. Pain not
   currently an issue. Onc to consult. Will request palliative care
   consult as well.
 Nutrition. NPO.  This is a major issue. He is very weak and unable to
   swallow. Consulting IR for PEG placement.
 HYPERCALCEMIA. Ionized calcium markedly elevated, PTH borderline low.
   Very difficult management issue with increased resp distress- since
   using fluids to try to temporize is not a great option given his
   dyspnea and h/o rapid pleural effusion with previous aggressive IV
   hydration.
 Zoster. On IV Acyclovir. No pain.
   DNR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-4-13**] 04:54 PM
   22 Gauge - [**2111-4-13**] 04:54 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2111-04-15 07:25:00 Physician Resident Progress Note
Chief Complaint: 75M with metastatic papillary thyroid ca s/p XRT,
   admitted with dysphagia, wt loss, tx to [**Hospital Unit Name 1**] for hypoxia with large
   effusion, s/p tap = exudative.
   24 Hour Events:
   -pt decided against feeding tube after d/w att
   -palliative care c/s assisting with end of life care
   -holding lovenox for possible pleurex catheter placement
   -foley placed per pt request for comfort given IVF and lasix
   -Endo pleased with Ca decrease, rec's continue current mgmt. Endo att
   suggesting not checking labs in transition to CMO care.
   -IP fellow called re: pigtail vs pleurex catheter
   -Onc recs: dysphagia likely due to radiation, may improve with healing.
   Agrees with current managment.
   -no growth from pleural fluid or blood cultures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-4-14**] 10:00 PM
   Levofloxacin - [**2111-4-14**] 11:00 PM
   Acyclovir - [**2111-4-15**] 02:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-15**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2111-4-14**] 04:00 PM
   Morphine Sulfate - [**2111-4-15**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-15**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 122 (115 - 130) bpm
   BP: 95/64(70) {88/44(57) - 120/73(82)} mmHg
   RR: 27 (25 - 41) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,286 mL
                                                                  1,280 mL
   PO:
             TF:
   IVF:
                                                                  3,286 mL
                                                                  1,280 mL
   Blood products:
   Total out:
                                                                  1,730 mL
                                                                    275 mL
   Urine:
                                                                  1,730 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,556 mL
                                                                  1,005 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   12.6 g/dL
   110 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.5 mEq/L
   25 mg/dL
   104 mEq/L
   138 mEq/L
   37.4 %
   40.2 K/uL
        [image002.jpg]
                             [**2111-4-12**]  05:59 PM
                             [**2111-4-13**]  03:41 AM
                             [**2111-4-13**]  03:06 PM
                             [**2111-4-14**]  05:40 AM
                             [**2111-4-15**]  04:51 AM
   WBC
   34.3
   39.5
   40.2
   Hct
   37.6
   41.7
   37.4
   Plt
   [**Telephone/Fax (3) 467**]
   Cr
   1.0
   0.8
   0.9
   0.9
   1.0
   Glucose
   [**Telephone/Fax (3) 444**]36
   110
   Other labs: PT / PTT / INR:15.9/29.5/1.4, Differential-Neuts:95.0 %,
   Band:1.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:1.0 %, Ca++:9.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: PTH 15
   Vitamin D - pending
   PTH rP - lost in transit...
   Imaging: [**4-14**] CXR:
   Moderate left pleural effusion is beginning to reaccumulate. No
   pneumothorax.
   Multiple large areas of pulmonary consolidation and small nodules
   suggesting
   widespread infection and metastases. Left lower lobe consolidation has
   worsened with recurrence of left pleural effusion. Large right
   cervicothoracic mass is longstanding. No pneumothorax.
   Microbiology: no growth
   Assessment and Plan
 HYPOXEMIA
 HYPERNATREMIA (HIGH SODIUM)
 HYPERCALCEMIA (HIGH CALCIUM)
 PLEURAL EFFUSION, ACUTE
   A/P: Mr. [**Known lastname 62**] is a 75 yo M w/PMHx sx for metastatic papillary
   thyroid cancer with local invasion and tracheal deviation who presents
   with worsening o2 requirment and chest x ray showed worsening left
   pleural effusion
   #. Respiratory distress: patient admitted 4 days ago, with
   leukocytosis, no fevers and x ray that showed multifocal pneumonia. X
   ray [**4-12**] showed worsening pleural effusion.  He is s/p 2L thoracentesis
   on [**4-13**], exudative fluid. CTA findings suggestive of metastatic
   involvement of pleura with multiple diffuse opacities in parenchyma.
   Pt
s respiratory status worsened after his video swallow yesterday,
   although no aspiration was witnessed. Ddx includes, reaccumulating
   effusion (especially in setting of aggressive hydration for
   hypercalcemia), pulmonary edema from fluid overload, PE (pt known to
   have small subsegmental PE, though was likely old, heparin gtt stopped
   per below), anxiety, infection.  Pt has marked leukocytosis, though no
   fevers or sputum production.  Imaging findings most likely related to
   malignancy although PNA cannot be excluded.  Repeat CXR shows
   reaccumulation of effusion
   -continue supplemental 02 with nebs
   -serial CXR
   -appreciate IP involvement, tentative plan for pleurex catheter
   placement today vs tomorrow, may need pleurodesis in future.  Holding
   lovenox prior to procedure.
   -continue antibiotics for ? PNA, f/u sputum culture
   -check pulsus parodoxus, had small pericardial effusion on CTA, may be
   becoming physiologically significant.
   # Leukocytosis: Pt has been afebrile. No bowel movements, c/o
   constipation so c. diff unlikely.  WBC continues to climb, now >30,
   with left shift.  Ddx includes infection (incl c. diff), malignancy.
   - pan cx if spikes
   - stool cx r/o c diff although abdomen benign, not stooling.
   -f/u pleural fluid cytology, cultures
   # Hypernatremia: Had been as high as 152, urine osms not c/w DI, likely
   due to NS given on presentation.
   Has normalized with free water repletion.
   -1/2 NS for IVF
   -Continue to monitor.
   # hypercalcemia: Likely due to malignancy, although PTH while on low
   end of normal would be expected to be very low if PTHrP elevated which
   is expected mechanism of malignant hypercalcemia in pt with solid
   tumor.  ? is this related to ectopic vitamin D conversion? Calcium has
   trended down 1 point with pamidronate, IVF and lasix.
   -appreciate endo recs, no role for calcitonin, continue current
   management
   -f/u PTHrP
   -Monitor closely for symptoms
   -Aggressively treat constipation
   # dysphagia: Mass effect due to tumor.  Not aspirating but failed video
   swallow.  Initially wanted tube feeds, eval for PEG.  After attending
   discussion, decided against.
   -PPN for now pending decision re: goals of care.
   -continue NPO
   #PE on CTA. Per final read small segmental filling unlikely to be new
   or contributing to symptoms.  Pt is at risk for thrombosis given
   malignancy, but also had grossly bloody pleural tap.
   -d/c
d heparin gtt for hemodynamically insignificant PE.
   # hypothyroidism: continue levothyroxine, checked TFTs per endo,
   improved since initiation of replacement.
   -appreciate endo mgmt, f/u recs.
   # Zoster: was on 1 week valgancyclovir, however given recent
   dysphagia/vomiting, unlikely receiving dose.  Will continue IV
   acyclovir here for full 2 week course.
   -contact precautions
   #. Metastatic papillary thyroid cancer s/p radiation: completed
   radiation. no other radiation plan for now.
   -Family meeting today, see att note.
   -Palliative care consult today, appreciate involvement.
   -symptom control
   -ativan IV prn anxiety
   -morphine prn dyspnea
   #constipation:
   -PR dulcolax, lactulose enema
   #. FEN. NPO, IVF with
 NS, PPN
   #. PPx. Was on lovenox, holding for IP procedure, pneumoboots.
   #. Code. Now DNR/DNI
   #. Access. PIV
   #. Communication. Wife [**Name (NI) 63**] [**Name (NI) 62**] HCP [**Telephone/Fax (1) 64**]
   #. Dispo. Callout to floor pending code discussion, decreased 02
   requirement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2111-4-13**] 04:54 PM
   22 Gauge - [**2111-4-13**] 04:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: